US07060827B2
N4-(3,4-Ethylenedioxyphenyl)-2-chloro-5-fluoro-4-pyrimidineamine (50 mg, 0.18 mmol) was dissolved in dry MeOH (1 ml), to it was added 3-aminoaniline (163 mg, 1.2 mmol) and the mixture was refluxed for 4 days (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 9:1) to give N2-(3-aminophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.66 (d, 1H, J=3.6 Hz), 7.18 (d, 1H, J=2.1 Hz), 7.09 (t, 1H, J=2.1 Hz), 6.80–6.90, (m, 1H), 6.69 (d, 1H, J=8.1 Hz), 6.57 (m, 1H), 6.20 (m, 1H), 6.60 (m, 1H), 4.10 (m, 4H); LCMS purity: 90.7%; MS (m/e): 354.13 (M+, 100).

reactant | N4-(3,4-Ethylenedioxyphenyl)-2-chloro-5-fluoro-4-pyrimidineamine | 0.18 mmol, 50 mg | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)Cl | C12H9ClFN3O2
reactant | 3-aminoaniline | 1.2 mmol, 163 mg | NC=1C=C(N)C=CC1 | C6H8N2
solvent | MeOH | 1 ml | CO | CH4O
product | N2-(3-aminophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C18H16FN5O2
